US05202318
A mixture of 40% aqueous methylamine (2 mL) and 2,3-dihydro-2-(1-methylpiperidin-4-yl)-6-nitro-1H-benz[de]isoquinoline-1,3-dione (1.1 g; 3.14 mmol), prepared as in Example 3, in isopropanol (10 mL) was stirred at 65°-70° C. for six hours. Concentration of the solution followed by purification of the residue by column chromatography (silica-gel; 3% methanol in CH2Cl2 and approximately 1% aqueous NH4OH) gave 2,3-dihydro-6-methyamino-2-(1-methylpiperidin-4-yl)-1H-benz[de]isoquinoline-1,3-dione (0.63 g; 1.95 mmol) as a yellow precipitate, m.p. 251°-254° C.

reactant | methylamine | 2 mL | CN | CH5N
reactant | 2,3-dihydro-2-(1-methylpiperidin-4-yl)-6-nitro-1H-benz[de]isoquinoline-1,3-dione | 3.14 mmol, 1.1 g | CN1CCC(CC1)N1C(C2=CC=CC=3C2=C(C1=O)C=CC3[N+](=O)[O-])=O | C18H17N3O4
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 2,3-dihydro-6-methyamino-2-(1-methylpiperidin-4-yl)-1H-benz[de]isoquinoline-1,3-dione | 1.95 mmol, 0.63 g | CNC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)C2CCN(CC2)C)=O | C19H21N3O2
